US05808062
4-Hydroxy-6-(4-hydroxyphenyl)-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-hydroxyacetophenone (0.657 g, 4.83 mmol), trimethylsilyl triflate (2.05 mL, 10.62 mmol), triethylamine (2.69 mL, 19.32 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (1.00 g, 3.22 mmol) m.p. 250° C.; (dec.) ; 1H NMR (400 MHz, DMSO-d6) δ 1.24 (d, 6H), 3.40 (m, 1H), 6.70 (s, 1H), 6.90 (t, 3H), 7.05 (t, 1H), 7.10 (t, 1H), 7.26 (d, 1H), 7.70 (d, 2H).

reactant | 4'-hydroxyacetophenone | 4.83 mmol, 0.657 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | trimethylsilyl triflate | 10.62 mmol, 2.05 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 19.32 mmol, 2.69 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 3.22 mmol, 1.00 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-6-(4-hydroxyphenyl)-3-[(2-isopropylphenyl)thio]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)O)=O)SC1=C(C=CC=C1)C(C)C | C20H18O4S
